2144-08-23 03:32:00 Physician Attending Progress Note
Chief Complaint: Rapid AF with RVR
   HPI:
   59 yo women with h/o mental retardation, multiple visits to [**Hospital Unit Name 44**] on
   this admission.  Presented with large pericardial effuse that was
   drained, and mediastinal mass that was biopsied revealing nodular
   sclerosing Hodgkins Lymphoma.  Course since has been complicated by
   respiratory failure that improved with drainign of pleural effusions,
   recurrent AF, C.diff, chronic ileus requiring TPN.  She receved GVD
   chemo on [**2144-8-15**].
   24 Hour Events:
   Found today on floor to have HR in 150s.  BPs initially 80s/40s,
   received 500cc bolus, transferred to MICU where IV diltiazem attempted,
   but no effect on HR, and only dropped BP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2144-8-23**] 03:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 160 () bpm
   BP: 107/56
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Rapid AF: Restarted IV amio and then spontaneously converted to NSR.
   Hodkins Lymphoma: Follow counts, status post day 8 from chemo.   Plan
   for second round tomorrow.
   C. diff:  Continue Flagyl until [**2144-9-5**]
   Ileus:  Continue NPO for now.
   HSV: On acyclovir
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   Addendum:  reviewed patient
s CXR which shows much larger cardiac
   silhouette compared to XR on [**2144-8-3**].  Worrisome for worsening
   pericardial effusion
 will get echo in am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2144-8-23**] 03:39 ------

2144-08-24 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2144-8-23**] 11:56 PM
   Metronidazole - [**2144-8-24**] 12:34 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-8-24**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-24**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 92 (73 - 109) bpm
   BP: 117/53(64) {90/31(42) - 152/137(147)} mmHg
   RR: 32 (0 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,752 mL
                                                                    942 mL
   PO:
             TF:
   IVF:
                                                                  1,467 mL
                                                                    647 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    417 mL
                                                                    160 mL
   Urine:
                                                                    417 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,335 mL
                                                                    782 mL
   Respiratory support
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   8.6 g/dL
   112 mg/dL
   0.2 mg/dL
   23 mEq/L
   3.7 mEq/L
   10 mg/dL
   110 mEq/L
   142 mEq/L
   25.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2144-8-23**]  04:26 AM
                             [**2144-8-23**]  10:42 PM
                             [**2144-8-24**]  03:56 AM
   WBC
   5.4
   4.5
   Hct
   23.6
   25.6
   25.9
   Plt
   173
   130
   Cr
   0.2
   0.2
   Glucose
   133
   112
   Other labs: PT / PTT / INR:15.5/31.7/1.4, ALT / AST:[**1-19**], Alk Phos / T
   Bili:57/0.4, Differential-Neuts:89.2 %, Band:0.0 %, Lymph:8.6 %,
   Mono:1.2 %, Eos:0.9 %, LDH:141 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   59F with mental retardation w/ recent dx of Nodular sclerosing Hodgkins
   Lymphoma s/p chemo; admitted with PAF of unclear precipitant.
   .
   # Atrial fibrillation with RVR: unclear precipitant; afebrile, appears
   euvolemic; ? [**3-14**] enlarged cardiac silouette and posisbel reaccumulation
   of pericardial effusion.  She has had difficult to control afib in the
   past on max dose esmolol and diltiazem drips and finally converted with
   amiodarone during her last ICU visit.
   - restart on amiodarone IV drip; will hold on bolus; will hold on
   - Monitor ECG and specifically QTc
   - no anticoagulation given hemopericardium
   .
   # Hemopericardium: Moderate pericardial effusion per ECHO on [**7-17**]
   without evidence of tamponade. Was drained by cards.  Now with widened
   cardiac silouette on CXR c/f possible reaccumulation.
   -- will obtain echo in am --> enlarging HB on CXR c/f reaccumulating
   effusion
   -- will monitor for evidence of tamponade physiology; currently stable
   -- will touch base with cards in am
   .
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy. Stage
   2b at least per OMR note. Completed one cycle of chemo, c/b c. diff
   colitis and oral/genital herpes.
   -- Currently getting doxorubicin/gemcitabine/navelbine, d8 on [**8-23**].
   - cont acyclovir for HSV
   - IV flagyl for C.diff through 7/20 per GI
   - Continue to follow ANC (greater than 4770 currently)
   - further orders per BMT
   .
   #. Ileus: ? pre-existing vs. chemo complication vs. from C. diff.  GI
   following.
   - IV flagyl for C.diff through 7/20 per GI; tap water enemas PRN
   - on TPN for the ileus
   .
   # Anemia: Chronic, iron deficiency anemia. Now s/p chemo Will continue
   to monitor.
   - Maintain Hct >25, plt >75 given hemopericardium
   .
   # FEN: monitor lytes. getting TPN (started on [**2144-8-21**])
   .
   # Proph: bowel regimen, PPI, SQH
   .
   # CODE: FULL code, reversed from DNR/DNI in conjunction with Dr. [**First Name (STitle) 1422**]
   [**Name (STitle) 3288**].
   .
   # ACCESS: PICC
   .
   # DISPO: to remain in ICU for HD monitoring
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   TPN without Lipids - [**2144-8-23**] 06:58 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2144-8-23**] 02:15 AM
   20 Gauge - [**2144-8-23**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2144-08-24 11:35:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Some increase in cardiac silhouette size over past 24 hours
   2)Had some decrease in HCT
   3)Pulsus checked and was 4 mmHg making concern for tamponade less
   acutely.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-8-24**] 07:52 AM
   Acyclovir - [**2144-8-24**] 10:04 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-8-24**] 06:32 AM
   Pantoprazole (Protonix) - [**2144-8-24**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2144-8-24**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 84 (73 - 102) bpm
   BP: 115/56(72) {90/31(42) - 152/137(147)} mmHg
   RR: 32 (0 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,752 mL
                                                                  1,538 mL
   PO:
             TF:
   IVF:
                                                                  1,467 mL
                                                                    950 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    417 mL
                                                                    257 mL
   Urine:
                                                                    417 mL
                                                                    257 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,335 mL
                                                                  1,281 mL
   Respiratory support
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), No(t) S3, (Murmur: No(t)
   Systolic)
no murmur appreciated.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )  She has signifiant tachpnea and increased respiratory
   effort..  There are no wheezed.
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: voice, does follow commands.Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   130 K/uL
   112 mg/dL
   0.2 mg/dL
   23 mEq/L
   3.7 mEq/L
   10 mg/dL
   110 mEq/L
   142 mEq/L
   25.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2144-8-23**]  04:26 AM
                             [**2144-8-23**]  10:42 PM
                             [**2144-8-24**]  03:56 AM
   WBC
   5.4
   4.5
   Hct
   23.6
   25.6
   25.9
   Plt
   173
   130
   Cr
   0.2
   0.2
   Glucose
   133
   112
   Other labs: PT / PTT / INR:15.5/31.7/1.4, ALT / AST:[**1-19**], Alk Phos / T
   Bili:57/0.4, Differential-Neuts:89.2 %, Band:0.0 %, Lymph:8.6 %,
   Mono:1.2 %, Eos:0.9 %, LDH:141 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR-Increased cardiac size with evolution of some bilateral
   peri-hilar pulmonary infiltrates.
   Assessment and Plan
   59 yo female with h/o mental retardation and recent Dx. Lymphoma admit
   with A-fib and RVR to ICU.  She has had some concern for worsening of
   pericadial effusion in the setting of increasing cardiac size on plain
   film.  Overall tachycardia has been managed wtih Amiodarone with
   reasonable response.  She now has evolved an increased in peicardial
   size concerning for worsening effusion and now with evidence on ECHO
   and peri-hilar infiltrates of significant worsening of pericardial
   effusion with tamponade which has been confirmed by EHCO this am.
   1)Pericardial Effusion-
   -Cardiology consult for movement to drainage of effusion
   emergently
this is given tamponde physiology and suggestion of perhaps
   compromise of LVEDP contributing to pulmonary edema.  More clearly
   there is a suggestion of RV compromise on ECHO and urgent drainage
   needed.
   -Coags-nl
   -Cardiology to be consulted for drainage.
   -IVF bolus as needed
   2)Atrial Fibrillation-
   -Continue with Amiodarone as maintenance of sinus rhythm is essential
   if possible.
   2.5)Respiratory Distress-
   [**Month (only) 60**] be a component of pulmonary edema in the setting of pericardial
   tamponade.
   3)C.Diff-
   Flagyl to continue
   ICU Care
   Nutrition:
   TPN without Lipids - [**2144-8-23**] 06:58 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2144-8-23**] 02:15 AM
   20 Gauge - [**2144-8-23**] 08:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: FULL CODE
   Disposition :ICU
   Total time spent: 35 minutes